US04728662
To a mixture of 21 g of 2,5-difluorobenzoyl chloride and 20.4 g of 2-chlororesorcinol dimethyl ether in 250 ml of 1,2-dichloroethane at 5°-10° C. 15.7 g of AlCl3 is added in portions. The mixture is allowed to warm to room temperature and is then refluxed for 30 minutes. The mixture is poured into concentrated HCl and ice and stirred for approximately one hour. The product is extracted with ethyl acetate, dried over Na2SO4 and evaporated to give 3-chloro-2',5'-difluoro-2-hydroxy-4-methoxybenzophenone, mp 178°-180° C.

reactant | 2,5-difluorobenzoyl chloride | 21 g | FC1=C(C(=O)Cl)C=C(C=C1)F | C7H3ClF2O
reactant | 2-chlororesorcinol dimethyl ether | 20.4 g | COC1=C(C(OC)=CC=C1)Cl | C8H9ClO2
reactant | AlCl3 | 15.7 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | HCl | Cl | ClH
solvent | 1,2-dichloroethane | 250 ml | ClCCCl | C2H4Cl2
product | 3-chloro-2',5'-difluoro-2-hydroxy-4-methoxybenzophenone | ClC=1C(=C(C(=O)C2=C(C=CC(=C2)F)F)C=CC1OC)O | C14H9ClF2O3
